US05258378
1-Phenylsulphonyl-1,4,5,6,7,8-hexahydro-6-methyl-8-phenylpyrrolo[2,3-d]azepine
A mixture of N-(2-hydroxy-2-phenylethyl)-N-methyl-2-(1-phenylsulphonyl-3-pyrrolyl)ethylamine (5.5 g), trifluoroacetic acid (200 ml) and methanesulphonic acid (2.13 g) was refluxed for 2.5 hours. After evaporating to dryness, water then 0.880 ammonia were added and the product was extracted into dichloromethane. The extracts were washed with water, dried and evaporated to give an oil. The oil was purified by chromatography on silica, eluting with chloroform then increasing amounts of methanol (1-5%) in chloroform to give the title product as a solid, m.p. 115°-116° C. (ethanol).

reactant | N-(2-hydroxy-2-phenylethyl)-N-methyl-2-(1-phenylsulphonyl-3-pyrrolyl)ethylamine | 5.5 g | OC(CN(C)CCC1=CN(C=C1)S(=O)(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C21H24N2O3S
reactant | methanesulphonic acid | 2.13 g | CS(=O)(=O)O | CH4O3S
solvent | trifluoroacetic acid | 200 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1-Phenylsulphonyl-1,4,5,6,7,8-hexahydro-6-methyl-8-phenylpyrrolo[2,3-d]azepine | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=C1C(CN(CC2)C)C2=CC=CC=C2 | C21H22N2O2S
